US04093622
To a solution of 2.5 g. of 2,5-diiodothiophene in 5 ml. of anhydrous tetrahydrofuran and 5 ml. of anhydrous ether at -5°, under nitrogen, is added dropwise over the period of one-half hour 14.92 ml. of 1.5 M n-butyllithium. After standing for two hours at 0°, carbon dioxide gas is added to the mixture for one-half hour at 0° and one-half hour at 10°. The reaction mixture is stirred at room temperature overnight. Water is added, the aqueous layer is acidified with 2N sulfuric acid, and the solution is then extracted with ether, the combined organic phases are washed with water and brine, dried over calcium sulfate, filtered and the solvent removed to yield 2,5-thiophenedicarboxylic acid (about 60% pure).

reactant | 2,5-diiodothiophene | IC=1SC(=CC1)I | C4H2I2S
reactant | n-butyllithium | 1.5 M | C(CCC)[Li]
reactant | carbon dioxide | C(=O)=O | CO2
reactant | sulfuric acid | 2N | S(O)(O)(=O)=O | H2O4S
reactant | ether | CCOCC | C4H10O
solvent | Water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2,5-thiophenedicarboxylic acid | about 60% | S1C(=CC=C1C(=O)O)C(=O)O | C6H4O4S
